US08067457B2
Benzyl 4-{(3R)-3-[({[3-(trifluoromethyl)benzoyl]amino}acetyl)amino]pyrrolidin-1-yl}piperidine-1-carboxylate (22)
The title compound was synthesized in similar fashion to N-[2-({(3R)-1-[1-(6-methoxypyridin-3-yl)piperidin-4-yl]pyrrolidin-3-yl}amino)-2-oxoethyl]-3-(trifluoromethyl)benzamide, whereby benzyl 4-oxopiperidine-1-carboxylate was substituted for 1-(6-methoxypyridin-3-yl)piperidin-4-one, and was isolated as a white solid. 1H-NMR (CD3OD) δ: 1.30-1.45 (m, 2H), 1.64-1.18 (m, 1H), 1.84-2.00 (m, 2H), 2.08-2.38 (m, 2H), 2.50-2.64 (m, 2H), 2.80-3.00 (m, 4H), 3.20-3.40 (m, 2H), 4.03 (s, 2H), 4.08-4.13 (m, 2H), 4.34-4.44 (m, 1H), 5.12 (s, 2H), 7.35 (m, 5H), 7.70 (t, J=7.8 Hz, 1H), 7.86 (d, J=7.8 Hz, 1H), 8.14 (d, J=7.5 Hz, 1H), 8.22 (s, 1H). MS m/z: 533 (M+1).

reactant | N-[2-({(3R)-1-[1-(6-methoxypyridin-3-yl)piperidin-4-yl]pyrrolidin-3-yl}amino)-2-oxoethyl]-3-(trifluoromethyl)benzamide | COC1=CC=C(C=N1)N1CCC(CC1)N1C[C@@H](CC1)NC(CNC(C1=CC(=CC=C1)C(F)(F)F)=O)=O | C25H30F3N5O3
reactant | benzyl 4-oxopiperidine-1-carboxylate | O=C1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C13H15NO3
reactant | 1-(6-methoxypyridin-3-yl)piperidin-4-one | COC1=CC=C(C=N1)N1CCC(CC1)=O | C11H14N2O2
product | Benzyl 4-{(3R)-3-[({[3-(trifluoromethyl)benzoyl]amino}acetyl)amino]pyrrolidin-1-yl}piperidine-1-carboxylate | FC(C=1C=C(C(=O)NCC(=O)N[C@H]2CN(CC2)C2CCN(CC2)C(=O)OCC2=CC=CC=C2)C=CC1)(F)F | C27H31F3N4O4
